* Schematics Netlist *



J_J3         $N_0002 $N_0001 0 J2N3819 
V_VGS         0 $N_0001 5
V_VDS         $N_0003 0 10
R_R2         $N_0002 $N_0003  100  
