* Schematics Netlist *



J_J1         $N_0002 $N_0001 0 J2N3819 
V_VGS         0 $N_0001 5V
V_VCC         $N_0003 0 10V
R_R1         $N_0002 $N_0003  100  
