* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
J_J1         $N_0002 $N_0003 0 J2N3819 
V_VCC         $N_0001 0 25
V_VAC         $N_0003 $N_0004  
+SIN 0 10mV 1k 0 0 0
V_VGS         0 $N_0004 1
